US07323475B2
a) 4-(pyridin-2-ylsulfanyl)-phthalonitrile
10 g of 2-mercaptopyridine, 14.2 g of 4-nitrophthalonitrile, and 22.6 g of potassium carbonate were suspended in 250 ml of acetone and heated at reflux temperature for 4 hours. The solution was filtered through a pad of celite and a course glass filter to remove residual solids. The solution was concentrated to a crude residue and purified by column chromatography on silica gel eluting the product with a gradient of 0-10% ethyl acetate in dichloromethane. 6.4 g of product was recovered; 1H NMR (200 Mz, CDCl3) δ=8.49-8.53 (m, 1H), 7.84-7.83 (dd, 1H), 7.76-7.71 (m, 2H), 7.68-7.64 (dd, 1H), 7.40-7.36 (dt, 1H), 7.27-7.20 (m, 1H).

reactant | 2-mercaptopyridine | 10 g | SC1=NC=CC=C1 | C5H5NS
reactant | 4-nitrophthalonitrile | 14.2 g | [N+](=O)([O-])C=1C=C(C(C#N)=CC1)C#N | C8H3N3O2
reactant | potassium carbonate | 22.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 250 ml | CC(=O)C | C3H6O
product | 4-(pyridin-2-ylsulfanyl)-phthalonitrile | N1=C(C=CC=C1)SC=1C=C(C(C#N)=CC1)C#N | C13H7N3S
